US08809525B2
6-[2-(Azetidin-1-yl)-6-(trifluoromethyl)pyridin-4-yl]-5-phenyl-1,2,4-triazin-3-amine (20.0 mg, 19%) was prepared from 5-phenyl-6-(2-chloro-6-trifluoromethyl-pyridin-4-yl)-1,2,4-triazin-3-amine (100 mg, 0.28 mmol) and azetidine according to the general procedure for Preparation 4a.

reactant | 5-phenyl-6-(2-chloro-6-trifluoromethyl-pyridin-4-yl)-1,2,4-triazin-3-amine | 0.28 mmol, 100 mg | C1(=CC=CC=C1)C=1N=C(N=NC1C1=CC(=NC(=C1)C(F)(F)F)Cl)N | C15H9ClF3N5
reactant | azetidine | N1CCC1 | C3H7N
product | 6-[2-(Azetidin-1-yl)-6-(trifluoromethyl)pyridin-4-yl]-5-phenyl-1,2,4-triazin-3-amine | 20.0 mg, 19% | N1(CCC1)C1=NC(=CC(=C1)C1=C(N=C(N=N1)N)C1=CC=CC=C1)C(F)(F)F | C18H15F3N6
